### ISSUE TITLE
simp rejects perm lemma rewrite that previously worked (regression after #12000)

### ISSUE THREAD

**Issue by kim-em** [leanprover/lean4#12136]
## Description

After https://github.com/leanprover/lean4/pull/12000 ("fix: split `ngen` on async elab"), simp incorrectly rejects a valid rewrite when a lemma is treated as a perm lemma.

Specifically, `simp [zsmul_comm]` fails where it previously succeeded. The workaround `simp [zsmul_comm _ z]` (with explicit argument) works because it's no longer treated as a perm lemma.

## Bisect Result

Using `lean-bisect`, the regression was identified:

- **Last working commit**: `8435dea274b0`
- **First broken commit**: `c7d3401417b3` (PR #12000)

The change to the name generator appears to affect simp's AC ordering (`acLt`) used for perm lemma decisions.

## Minimal Reproduction

```lean
notation "ℤ" => Int

class AddZero (M : Type _) extends Zero M, Add M

class AddZeroClass (M : Type u) extends AddZero M where
  zero_add : ∀ a : M, 0 + a = a
  add_zero : ∀ a : M, a + 0 = a

class AddMonoid (M : Type u)  extends AddZeroClass M where
  nsmul : Nat → M → M
  nsmul_zero : ∀ x, nsmul 0 x = 0 := by intros; rfl
  nsmul_succ : ∀ (n : Nat) (x), nsmul (n + 1) x = nsmul n x + x := by intros; rfl

instance AddMonoid.toNatSMul {M : Type _} [AddMonoid M] : SMul Nat M := sorry

class IsAddTorsionFree (M : Type _) [AddMonoid M] where
  nsmul_right_injective ⦃n : Nat⦄ (hn : n ≠ 0) : Function.Injective fun a : M ↦ n • a

class InvolutiveNeg (A : Type _) extends Neg A where
  neg_neg : ∀ x : A, - -x = x

class SubNegMonoid (G : Type u) extends AddMonoid G, Neg G, Sub G where
  sub := fun a b => a + -b
  sub_eq_add_neg : ∀ a b : G, a - b = a + -b := by intros; rfl
  zsmul : Int → G → G
  zsmul_zero' : ∀ a : G, zsmul 0 a = 0 := by intros; rfl
  zsmul_succ' (n : Nat) (a : G) : zsmul n.succ a = zsmul n a + a := by intros; rfl
  zsmul_neg' (n : Nat) (a : G) : zsmul (Int.negSucc n) a = -zsmul n.succ a := by intros; rfl

instance SubNegMonoid.toZSMul {M} [SubNegMonoid M] : SMul Int M := sorry

class SubtractionMonoid (G : Type u) extends SubNegMonoid G, InvolutiveNeg G where
  neg_add_rev (a b : G) : -(a + b) = -b + -a
  neg_eq_of_add (a b : G) : a + b = 0 → -a = b

class SubtractionCommMonoid (G : Type u)  extends SubtractionMonoid G

class AddGroup (A : Type u) extends SubNegMonoid A where
  neg_add_cancel : ∀ a : A, -a + a = 0

instance AddGroup.toSubtractionMonoid [AddGroup G] : SubtractionMonoid G :=
  { neg_neg := sorry, neg_add_rev := sorry, neg_eq_of_add := sorry }

class AddCommGroup (G : Type u)  extends AddGroup G

instance AddCommGroup.toSubtractionCommMonoid [AddCommGroup G] : SubtractionCommMonoid G :=
  { ‹AddCommGroup G›, AddGroup.toSubtractionMonoid with }

theorem zsmul_comm {α : Type _} [SubtractionMonoid α] (a : α) (m n : Int) :
    n • m • a = m • n • a := sorry

theorem zsmul_sub {α : Type _} [SubtractionCommMonoid α] (a b : α) (n : Int) :
    n • (a - b) = n • a - n • b := sorry

theorem zsmul_right_inj {G : Type _} [AddGroup G] [IsAddTorsionFree G] {n : Int} {a b : G}
    (hn : n ≠ 0) : n • a = n • b ↔ a = b := sorry

variable {G : Type _} [AddCommGroup G] {a b p : G} {z : Int}

def ModEq (a b p : G) : Prop := sorry
notation:50 a " ≡ " b " [PMOD " p "]" => ModEq a b p
theorem modEq_iff_zsmul : a ≡ b [PMOD p] ↔ ∃ m : Int, m • p = b - a := sorry

-- SUCCESS: With explicit args, zsmul_comm is not treated as a perm lemma
example [IsAddTorsionFree G] (hn : z ≠ 0) :
    z • a ≡ z • b [PMOD z • p] ↔ a ≡ b [PMOD p] := by
  simp [modEq_iff_zsmul, ← zsmul_sub, zsmul_comm _ z, zsmul_right_inj hn]

-- FAILURE: Without explicit args, zsmul_comm is treated as a perm lemma and rejected
example [IsAddTorsionFree G] (hn : z ≠ 0) :
    z • a ≡ z • b [PMOD z • p] ↔ a ≡ b [PMOD p] := by
  simp [modEq_iff_zsmul, ← zsmul_sub, zsmul_comm, zsmul_right_inj hn]
  -- Error: unsolved goals
  -- ⊢ (∃ m, m • z • p = z • (b - a)) ↔ ∃ m, m • p = b - a
```

## Expected behavior

Both `simp [zsmul_comm _ z]` and `simp [zsmul_comm]` should successfully apply the rewrite.

## Actual behavior

`simp [zsmul_comm]` is treated as a perm lemma, and the AC ordering rejects the rewrite `m • z • p ==> z • m • p`.

## Versions

- First broken: nightly-2026-01-15 (commit c7d3401417b3)
- Last working: nightly-2026-01-14 (commit 8435dea274b0)

## Impact

This regression breaks proofs in Mathlib that rely on `simp [zsmul_comm]` without explicit arguments. The workaround is to add explicit arguments like `simp [zsmul_comm _ z]`.

**Comment by kim-em** [comment]
The minimal reproduction above was produced using [lean-minimizer](https://github.com/kim-em/lean-minimizer), starting from a Mathlib proof in `Mathlib.Algebra.Group.ModEq`.

**Comment by kim-em** [comment]
@Kha, do you want to take another look at #12000? I can look into it if you prefer.

**Comment by Rob23oba** [comment]
I'll give you a simpler mwe:
```lean-4
variable {a : Nat}

--set_option Elab.async false

theorem th (b : Nat) (h : a + b = 3) : b + a = 3 := by
  simp [Nat.add_comm, h]
```
The proof works
- in older versions
- when `a : Nat` becomes a parameter of the theorem
- when `Elab.async` is disabled
- when `theorem th` becomes an example

but not in versions after #12000 when left unchanged.

`pp.raw` shows:
`a = _uniq.6` and `b = _uniq.101.2` and `_uniq > _uniq.101` and thus `a = _uniq.6 > _uniq.101.2 = b` while previously `a < b`

**Comment by Kha** [comment]
Thanks both. So the fvar ids after and before are
```
#eval Name.lt (.num (.num `_uniq 102) 2) (.num `_uniq 7)  -- true
#eval Name.lt (.num `_uniq 100) (.num `_uniq 5)  -- false
```
So `NameGenerator.mkChild` is not compatible with the (unstated?) assumption that later fvars compare greater according to `Name.lt` (and thus perm lemmas reorder fvars in declaration order). This seems... extremely unfortunate. I think we should revert #12000 until we come up with a solution. /cc @kim-em

**Comment by kim-em** [comment]
Created PRs to address this:

- https://github.com/leanprover/lean4/pull/12148 - Reverts #12000
- https://github.com/leanprover/lean4/pull/12149 - Adds regression test based on @Rob23oba's simpler MWE

Also opened https://github.com/leanprover/lean4/issues/12150 to track the original go-to-definition issue that #12000 was trying to fix.
